US06403804B1
Synthesis of (2S,3S)-2-Benzyl-3-Hydroxybutanohydrazide
A 0.70 g (3.36 mmol) of methyl (2S,3S)-2-benzyl-3-hydroxybutyrate (optical purity: 96%e.e.; anti/syn=98/2) was dissolved in 1 ml of 2-propanol, and 0.34 g (6.72 mmol) of hydrazine monohydrate was added thereto dropwise at room temperature. After the addition, the mixture was refluxed for 8 hours, and then stirred overnight to obtain a concentrate. The obtained concentrate was crystallized by using a mixed solvent of ethyl acetate and hexane to give 0.45 g (64%) of the title compound. Melting point: 167.1° C. Optical purity: >99.9%e.e. anti/syn>99/1

reactant | methyl (2S,3S)-2-benzyl-3-hydroxybutyrate | 3.36 mmol, 0.70 g | C(C1=CC=CC=C1)[C@H](C(=O)OC)[C@H](C)O | C12H16O3
reactant | hydrazine monohydrate | 6.72 mmol, 0.34 g | O.NN
solvent | 2-propanol | 1 ml | CC(C)O | C3H8O
product | (2S,3S)-2-Benzyl-3-Hydroxybutanohydrazide | 0.45 g, 64% | C(C1=CC=CC=C1)[C@H](C(=O)NN)[C@H](C)O | C11H16N2O2
